US05318968
4-Chloro-5-(3,4-dimethoxybenzylamino)-6-(5-carboxypentyloxy)-3(2H)-pyridazinone (Compound No. 2)
A mixture comprising 240 mg of 4-chloro-5-(3,4-dimethoxybenzylamino)-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone (Compound No. 1) prepared in Preparation Example 1, 65 mg of sodium hydroxide, 10 ml of methanol and 1 ml of water, was stirred at 60°-70° C. for 1 hour. After the reaction liquor was evaporated under reduced pressure, water was poured to the residue, and the resultant solution was adjusted to pH 1-2 with dilute hydrochloric acid, whereupon the product was extracted with chlorform. The extract was washed with water and brine in order, and was dried over sodium sulfate. Thereafter, the solvent was distilled off, and the residue was crystallized from chloroform-diethyl ether to obtain 192 mg of the above identified compound as colorless crystals having a melting point of from 150.5° C. to 151.5° C.

reactant | 4-chloro-5-(3,4-dimethoxybenzylamino)-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone | 240 mg | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCCCCC(=O)OC)=O | C20H26ClN3O6
reactant | sodium hydroxide | 65 mg | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 4-Chloro-5-(3,4-dimethoxybenzylamino)-6-(5-carboxypentyloxy)-3(2H)-pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCCCCC(=O)O)=O | C19H24ClN3O6
